US07544835B2
3-(3-{2-[(Anilinocarbonyl)oxy]ethyl}phenyl)-2-ethoxypropanoic acid
Using ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate and phenylisocyanate, the title compound was obtained in the same manner as described in Example 160b).

reactant | ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate | C(C)OC(C(=O)OCC)CC1=CC(=CC=C1)CCO | C15H22O4
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 3-(3-{2-[(Anilinocarbonyl)oxy]ethyl}phenyl)-2-ethoxypropanoic acid | N(C1=CC=CC=C1)C(=O)OCCC=1C=C(C=CC1)CC(C(=O)O)OCC | C20H23NO5
